US07169772B2
2.0 g of methyl 4-bromo-2-methylbenzoate were dissolved in 20 ml of toluene, and 1.08 ml of pyrrolidine, 4.0 g of cesium carbonate, 200 mg of tris(dibenzylideneacetone)-dipalladium (0) and 200 mg of (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl were added thereto, and then the mixture was heated under reflux for 6 hours. The reaction solution was cooled, mixed with water and EtOAc, and extracted. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (hexane-EtOAc (25:1)) to obtain 0.784 g of methyl 2-methyl-4-pyrrolidin-1-ylbenzoate.

reactant | methyl 4-bromo-2-methylbenzoate | 2.0 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | pyrrolidine | 1.08 ml | N1CCCC1 | C4H9N
reactant | cesium carbonate | 4.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 200 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-methyl-4-pyrrolidin-1-ylbenzoate | 0.784 g | CC1=C(C(=O)OC)C=CC(=C1)N1CCCC1 | C13H17NO2
